US07863332B2
100 mg (2.5 mmol, 8 eq) of sodium hydroxide are added to a solution of 130 mg (0.3 mmol, 1 eq) of methyl 3-[3-fluoro-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoate in 3 ml of 9/1 tetrahydrofuran/methanol. The reaction mixture is stirred for 3 hours at room temperature. The reaction is stopped by addition of 10 mL of water and 1 mL of acetic acid and then extracted with ethyl acetate. The organic phases are combined and dried over sodium sulfate. The solvents are evaporated off and the residue is then chromatographed on silica gel (70/30 heptane/ethyl acetate). The oil obtained is crystallized from heptane/dichloromethane. 55 mg of 3-[3-fluoro-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid in the form of a white solid are obtained (m.p.=92-93° C.). Yield=43%

reactant | sodium hydroxide | 2.5 mmol, 100 mg, 8 eq | [OH-].[Na+]
reactant | methyl 3-[3-fluoro-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoate | 0.3 mmol, 130 mg, 1 eq | FC=1C=C(C=CC1CCC(=O)OC)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C25H33FN2O3
reactant | tetrahydrofuran methanol | O1CCCC1.CO
reactant | water | 10 mL | O | H2O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 3-[3-fluoro-3′-(3-heptyl-1-methylureido)biphenyl-4-yl]propanoic acid | 55 mg, Yield=43% | FC=1C=C(C=CC1CCC(=O)O)C1=CC(=CC=C1)N(C(=O)NCCCCCCC)C | C24H31FN2O3
